US08703742B2
Trifluoro-methanesulfonic acid 2-(3-benzyloxy-propoxy)-4-chloro-6-formyl-phenyl ester
To a solution of 3-(3-benzyloxy-propoxy)-5-chloro-2-hydroxy-benzaldehyde (5.3 g, 16.6 mmol) and pyridine (3.4 mL, 41.5 mmol) in CH2Cl2 (70 mL) at 0° C. was added Tf2O (3.1 mL, 18.3 mmol) drop-wise over 5 minutes period and the reaction mixture was stirred for 3 h at room temperature. The solution was diluted with CH2Cl2 (100 mL), washed with water, brine, dried over Na2SO4, then concentrated under reduced pressure. The product was purified by silica gel column chromatography (2:1 hexanes-EtOAc mobile phase) generating the title compound (3.8 g, 8.5 mmol, 51%) as a light yellow oil. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 10.18 (s, 1H), 7.48 (d, J=2.3 Hz, 1H), 7.37-7.29 (m, 6H), 4.52 (s, 2H), 4.23 (t, J=6.2 Hz, 2H), 3.69 (t, J=5.8 Hz, 2H), 2.16 (t, J=6.0 Hz, 2H); 19F NMR (376 MHz, CHLOROFORM-d) δ ppm −73.23 (s).

reactant | 3-(3-benzyloxy-propoxy)-5-chloro-2-hydroxy-benzaldehyde | 16.6 mmol, 5.3 g | C(C1=CC=CC=C1)OCCCOC=1C(=C(C=O)C=C(C1)Cl)O | C17H17ClO4
reactant | pyridine | 41.5 mmol, 3.4 mL | N1=CC=CC=C1 | C5H5N
reactant | Tf2O | 18.3 mmol, 3.1 mL | O(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | CH2Cl2 | 70 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | Trifluoro-methanesulfonic acid 2-(3-benzyloxy-propoxy)-4-chloro-6-formyl-phenyl ester | 8.5 mmol, 3.8 g, 51% | C(C1=CC=CC=C1)OCCCOC1=C(C(=CC(=C1)Cl)C=O)OS(=O)(=O)C(F)(F)F | C18H16ClF3O6S
